US04359420
A mixture of 14.0 g (79 mmol) of 6-methylisatoic acid anhydride, 7.04 g (79 mmol) of sarcosine and 80 ml of dimethyl sulphoxide is stirred at 110° C. for 3 hours. The red coloured solution is evaporated in a high vacuum. The residue is treated with 80 ml of ethanol, the product crystallising out. There is obtained 3,4-dihydro-4,6-dimethyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 200°-202° C.

reactant | 6-methylisatoic acid anhydride | 79 mmol, 14.0 g | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
reactant | sarcosine | 79 mmol, 7.04 g | N(C)CC(=O)O | C3H7NO2
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 3,4-dihydro-4,6-dimethyl-2H-1,4-benzodiazepine-2,5(1H)-dione | CN1CC(NC2=C(C1=O)C(=CC=C2)C)=O | C11H12N2O2
